US07592477B2
Step a) Formation of 4-dec-1-ynylbenzaldehyde
To a solution of 4-bromobenzaldehyde (30.0 g, 162.2 mmol), 1-decyne (26.9 g, 35 mL, 194.6 mmol), CuI (309 mg, 1.62 mmol) and of Et3N (68 mL) in anhydrous THF (450 mL) were added PPh3 (1.7 g, 6.49 mmol) and Pd(OAc)2 (728 mg). The reaction mixture was refluxed under argon for 1 hour. After cooling to rt, the solution was concentrated under reduced pressure and the residual oil was dissolved in hexane (480 mL). The solution was washed with an aqueous solution of HCl (0.1N, 1×), brine (2×), water (2×), dried over MgSO4, filtered and concentrated under reduced pressure to give a brown oil. Purification by chromatography on silicagel (c-Hex/EtOAc 20/1) gave the title compound as a yellow solid (34.7 g, 88%). 1H NMR (CDCl3, 300 MHz) δ 9.97 (s, 1H), 7.78 (d, 2H, J=8.7 Hz), 7.51 (d, 2H, J=8.3 Hz), 2.42 (t, 2H, J=7.0 Hz), 1.67-1.55 (m, 2H), 1.50-1.38 (m, 2H), 1.36-1.21 (m, 8H), 0.87 (m, 31). HPLC (Condition A), Rt: 5.50 min (HPLC purity: 93.2%).

reactant | 4-bromobenzaldehyde | 162.2 mmol, 30.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1-decyne | 194.6 mmol, 35 mL, 26.9 g | C#CCCCCCCCC | C10H18
reactant | Et3N | 68 mL | CCN(CC)CC | C6H15N
solvent | THF | 450 mL | C1CCOC1 | C4H8O
catalyst | CuI | 1.62 mmol, 309 mg | [Cu]I
catalyst | Pd(OAc)2 | 728 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | PPh3 | 6.49 mmol, 1.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 4-dec-1-ynylbenzaldehyde | 34.7 g, 88% | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
